2112-05-31 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AMS, fever leukocytosis
   24 Hour Events:
   -NS bolus 500cc x 2 for ARF, low UOP
   Allergies:
   Sulfa (Sulfonamides): Unknown;
   Lyrica (Oral) (Pregabalin)
   Anaphylaxis;
   Ace Inhibitors: Unknown;
   Metformin: Unknown;
   Dofetilide: Unknown;
   Quinidine: Unknown;
   Fentanyl: Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2112-5-30**] 10:48 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-31**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 69 (62 - 81) bpm
   BP: 106/61(72) {101/13(46) - 132/70(80)} mmHg
   RR: 19 (17 - 26) insp/min
   SpO2: 95%
   Heart rhythm: A Paced
             Total In:
                                                                  1,150 mL
                                                                    567 mL
   PO:
             TF:
   IVF:
                                                                  1,150 mL
                                                                    567 mL
   Blood products:
   Total out:
                                                                    155 mL
                                                                    130 mL
   Urine:
                                                                    155 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    995 mL
                                                                    438 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   PHYSICAL EXAM
   GENERAL: Somnolent, opens eyes to voice
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA. MM dry. OP clear.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP unable to be assessed
   LUNGS: CTA on R side, significantly decreased BS on L
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, radial pulses not palpable, WWP
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: son[**Name (NI) **]
   [**Name (NI) 358**] / Radiology
   150 K/uL
   12.5 g/dL
   153 mg/dL
   1.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   36 mg/dL
   106 mEq/L
   145 mEq/L
   39.9 %
   12.6 K/uL
        [image002.jpg] 2x BCxs pending, Urine cx pending
                             [**2112-5-31**]  05:11 AM
   WBC
   12.6
   Hct
   39.9
   Plt
   150
   Cr
   1.7
   Glucose
   153
   Other [**Year (4 digits) **]: PT / PTT / INR:43.2/48.0/4.6, ALT / AST:18/30, Alk Phos / T
   Bili:75/1.2, Lactic Acid:2.3 mmol/L, LDH:212 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ACUTE CONFUSION
 PNEUMONIA, OTHER
 .H/O ATRIAL FLUTTER (AFLUTTER)
 .H/O DIABETES MELLITUS (DM), TYPE II
   This is a 75 year-old man with CHF, afib on coumadin, diabetes, CAD s/p
   MI, recent admission for PNA, who presents from rehab with altered
   mental status, found to have new fever and leukocytosis.
   .
   # Fever/Leukocytosis:  He is now afebrile after receiving meropenem and
   tylenol.  Potentially superimposed PNA resistant to vanco/zosyn,
   possible new infectious source (e.g. bacteremia).  UA negative for
   infection.  Doubt CNS source as mental status is clearing and FROM in
   neck, more likely delirium.  Lactate trending down, WBC trending down.
   - cont vanco (vanco trough 15) and meropenem for now (will need to
   contact ID for authorization of meropenem use).
   - Fluid bolus today for decreased UOP
   - f/u blood cx, urine cx, sputum cx. (If obtainable)
   - monitor fever curve, tylenol prn
   - monitor WBC trend
   - if does not defervesce consider US guided thoracentesis of L sided
   effusion
   - urine legionella ab
   .
   # Altered mental status:  Likely toxic metabolic in the setting of
   infection.  Also compounded by receiving ativan at the rehab.  Doubt
   meningitis or encephalitis as patient has FROM in neck and pt is more
   responsive today.  Not uremic.  No evidence of liver failure.
   - hold all psychotropic medications
   - keep NPO for now
   - will try haldol if becomes agitated
   - CT head if mental status worsens
   -Call PCP today for more info about baseline MS
   .
   # Hypoxia:  Improving.  Large component likely secondary to undiagnosed
   OSA as pt had witnessed apneic events during initial physical exam.
   Could also be related to pneumonia.  Appears to be volume overloaded
   today by xray
   - continue O2 by NC
   - diuresis if resp status worsens.
   - ABG
   .
   # Acute on chronic renal failure:  Cr 1.8 from baseline of 1.4.  Likely
   prerenal.
   - monitor UOP and bolus prn for <30cc/h as above
   - trend Cr
   - send urine lytes if renal function does not improve with IVF
   .
   # Chronic systolic CHF:  EF 15%.  Required fluid bolus yesterday and
   clinically exhibiting symptoms of fluid overload despite low
   intravascular volume.
   - holding lasix for now unless pulmonary function worsens
   - holding BB, will add back if needed
   .
   # Atrial fibrillation: Currently in sinus rhythm.
   - holding amiodarone until able to take PO
   - will continue digoxin IV, need to follow level daily [**1-4**] worsening
   renal function
   .
   # Diabetes: Complicated by peripheral neuropathy.  CBGs WNL.
   - cont insulin 70/30 at decreased dose of 15u while NPO, adjust dose as
   needed
   - humalog sliding scale
   .
   # Hypertension:  Currently normotensive off of medications.
   - holding lasix, metoprolol in setting of possible infection
   ICU Care
   Nutrition: will advance diet as tolerated
   Glycemic Control:  HSSI
   Lines:
   16 Gauge - [**2112-5-30**] 04:21 PM
   20 Gauge - [**2112-5-30**] 05:48 PM
   Prophylaxis:
   DVT: pneumoboots, supratherapeutic on heparin
   Stress ulcer:  start famotidine
   VAP:
   Comments:
   Communication:  Comments: - [**First Name8 (NamePattern2) 1509**] [**Last Name (NamePattern1) 7409**] (daughter/HCP) [**Telephone/Fax (1) 7410**],
   [**Telephone/Fax (1) 7411**]
   Code status: DNR/DNI
   Disposition:

2112-05-31 11:05:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, delerium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Somewhat improved this AM.  Able to orient, attend.  States "[**2111**]" and
   "hospital"
   No specific complaints.  Remains lethargic.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Lyrica (Oral) (Pregabalin)
   Anaphylaxis;
   Ace Inhibitors
   Unknown;
   Metformin
   Unknown;
   Dofetilide
   Unknown;
   Quinidine
   Unknown;
   Fentanyl
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2112-5-31**] 08:30 AM
   Vancomycin - [**2112-5-31**] 09:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2112-5-31**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 70 (62 - 81) bpm
   BP: 107/56(68) {100/13(46) - 132/70(80)} mmHg
   RR: 19 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
             Total In:
                                                                  1,150 mL
                                                                    907 mL
   PO:
             TF:
   IVF:
                                                                  1,150 mL
                                                                    907 mL
   Blood products:
   Total out:
                                                                    155 mL
                                                                    300 mL
   Urine:
                                                                    155 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    995 mL
                                                                    607 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): year and place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   [**Year (4 digits) 358**] / Radiology
   12.5 g/dL
   150 K/uL
   153 mg/dL
   1.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   36 mg/dL
   106 mEq/L
   145 mEq/L
   39.9 %
   12.6 K/uL
        [image002.jpg]
                             [**2112-5-31**]  05:11 AM
   WBC
   12.6
   Hct
   39.9
   Plt
   150
   Cr
   1.7
   Glucose
   153
   Other [**Year (4 digits) **]: PT / PTT / INR:43.2/48.0/4.6, ALT / AST:18/30, Alk Phos / T
   Bili:75/1.2, Lactic Acid:2.3 mmol/L, LDH:212 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   ALTERED MENTAL STATUS -- Continued improvement during course of present
   hospitalization suggests drug-induced or toxic-metabolic process.
   Meningitis or encephalitis much less likely.  Avoid psychotropic
   drugs.  Consider head CT in context of elevated INR.  [**Month (only) 8**] have
   underlying OSA or sleep disturbance in context of chronic heart
   failure.  Check ABG if possible to obtain safely.
   PNEUMONIA -- RLL.  [**Month (only) 8**] represent persistent infection (poorly
   responsive to current antimicrobials) or evolution of resistant
   organism.  Adjust antimicrobials, now on Vanco, Meropenem and add
   Azithro.  Monitor exam and radiographs.
   SEPSIS -- may represent partial treatment of pneumonia, or new
   infection (such as C. diff, hepatobiliary infection, skin-infection).
   Plan check cultures.  Continue supportive care, empirical
   antimicrobials.
   LACTIC ACIDOSIS -- reflects hypoperfusion.  Resussitate with fluids,
   monitor lactic acid.  Maintain BP MAP > 60 mmHg.
   COAGULOPATHY --  attributed to coumadin, and elevation likely poor
   nutrition and antimicrobial effect.  Monitor to therapeutic level, then
   resume Coumadin.  Reverse (FFP and Vit K) if bleeding develops.
   CHF
 severly depressed EF, but no evidence for active heart failure.
   Monitor I/O, exam.
   ACUTE RENAL FAILURE -- acute on chronic.  Likely prerenal due to
   hypovolemia and sepsis.  Replete iv fluids.  Monitor BUN, creatinine.
   CAD -- No evidence for active disease.
   HYPOPHOSPHATEMIA -- replete.
   POTASSIUM -- replete to >4.0 while on Digoxin.
   NIDDM -- maintain glucose <150.
   FLUIDS -- hypovolemia.  Replete with fluids, monitor I/O.
   A-FIB -- adequate rate control.  Continue Amioderone, Digoxin,
   Toprolol.  Monitor HR.
   VEA -- pacer in place.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-5-30**] 04:00 PM
   16 Gauge - [**2112-5-30**] 04:21 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2112-06-01 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pt agitated, did not respond very well to Haldol, gave Zyprexa
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Lyrica (Oral) (Pregabalin)
   Anaphylaxis;
   Ace Inhibitors
   Unknown;
   Metformin
   Unknown;
   Dofetilide
   Unknown;
   Quinidine
   Unknown;
   Fentanyl
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2112-5-31**] 08:30 AM
   Vancomycin - [**2112-5-31**] 09:30 AM
   Azithromycin - [**2112-5-31**] 01:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-6-1**] 04:09 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2112-6-1**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-6-1**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 70 (70 - 74) bpm
   BP: 107/58(71) {100/47(63) - 133/103(118)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
             Total In:
                                                                  2,920 mL
                                                                    166 mL
   PO:
                                                                    930 mL
             TF:
   IVF:
                                                                  1,990 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    700 mL
   Urine:
                                                                    770 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,150 mL
                                                                   -534 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.33/53/91.[**Numeric Identifier 253**]/25/0
   Physical Examination
   PHYSICAL EXAM
   GENERAL: lying in bed, asleep, awakens to loud voice or physical touch
   HEENT: dry mucous membranes, oropharynx clear, anicteric sclera, no
   lymphadenopathy
   CARDIAC: RRR, no murmurs or gallops hears
   LUNGS: Decreased BS on anterior left with coarse, rhonchorous breath
   sounds. Right side with coarse breath sounds.  No wheezing hears.
   ABDOMEN: soft, non-tender, non-distended, +BS
   EXTREMITIES: no edema or cyanosis. Mildly weak DP pulses bilaterally.
   SKIN: sores/ulcers over shins bilaterally with skin erythematous
   around, no hair on lower extremities below the knee.
   NEURO: son[**Name (NI) **]
   [**Name (NI) 358**] / Radiology
   168 K/uL
   11.9 g/dL
   129 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   35 mg/dL
   103 mEq/L
   143 mEq/L
   37.0 %
   16.8 K/uL
        [image002.jpg]
                             [**2112-5-31**]  05:11 AM
                             [**2112-6-1**]  04:41 AM
                             [**2112-6-1**]  06:27 AM
   WBC
   12.6
   16.8
   Hct
   39.9
   37.0
   Plt
   150
   168
   Cr
   1.7
   1.5
   TCO2
   29
   Glucose
   153
   129
   Other [**Year (4 digits) **]: PT / PTT / INR:43.2/48.0/4.6, ALT / AST:17/26, Alk Phos / T
   Bili:79/1.1, Lactic Acid:2.3 mmol/L, LDH:240 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Micro:
   [**5-30**] UCx negative, legionella urine antigen negative, BCx
s neg to date
   Assessment and Plan
 ACUTE CONFUSION
 PNEUMONIA, OTHER
 .H/O ATRIAL FLUTTER (AFLUTTER)
 .H/O DIABETES MELLITUS (DM), TYPE II
   This is a 75 year-old man with CHF, afib on coumadin, diabetes, CAD s/p
   MI, recent admission for PNA, who presents from rehab with altered
   [**Month/Year (2) 7446**] status, found to have new fever and leukocytosis.
   # Fever/Leukocytosis:  He is now afebrile after receiving meropenem x 1
   day and tylenol.  Potentially superimposed PNA resistant to
   vanco/zosyn, possible new infectious source (e.g. bacteremia).  UA
   negative for infection.  Doubt CNS source as [**Month/Year (2) 7446**] status is clearing
   and FROM in neck, more likely delirium.  Lactate trending down, WBC
   trending down.  Urine Legionella negative. ABG with some CO2 retention,
   will monitor, but O2 sats good.
   - pt s/p 1 week Vanc treatment and Meropenem x 1day.  White count
   elevated from yesterday, clinical exam unimproved, will contact ID re:
   recs for abx coverage.
   - f/u blood cx, urine cx, sputum cx. (If obtainable)
   - monitor fever curve, tylenol prn
   - monitor WBC trend
   - if does not defervesce consider US guided thoracentesis of L sided
   effusion
   .
   # Altered [**Month/Year (2) 7446**] status:  Likely toxic metabolic in the setting of
   infection.  Also compounded by receiving ativan at the rehab.  Doubt
   meningitis or encephalitis as patient has FROM in neck and pt is more
   responsive today.  Not uremic.  No evidence of liver failure. Per PCP,
   [**Name10 (NameIs) 7446**] status has been changing for 2 months. Responded well to zyprexa
   overnight.
   - haldol 1 mg q1-2hr: prn agitation.  Consider another dose of Zyprexa
   5 mg SL if haldo not effective.
   - continue holding psychotropic meds
   - keep NPO for now
   - Threshold for low for CT head if [**Name10 (NameIs) 7446**] status worsens
   # Hypoxia:  Oxygenating well on ABG this am with pa02=92..  Large
   component likely secondary to undiagnosed OSA as pt had witnessed
   apneic events during initial physical exam.  Could also be related to
   pneumonia.  Appears to be volume overloaded today by xray
   - continue O2 by NC, wean as tolerated.
   - diuresis if resp status worsens.
   # Acute on chronic renal failure:  Cr 1.8 from baseline of 1.4.  Likely
   prerenal.
   - UOP approx 50cc/h or more, bolus prn for <30cc/h as above
   - trend Cr
   - send urine lytes if renal function does not improve with IVF
   # Chronic systolic CHF:  EF 15%.  Required fluid bolus yesterday and
   clinically exhibiting symptoms of fluid overload despite low
   intravascular volume. Continue current management.
   - holding lasix for now unless pulmonary function worsens
   - holding BB, will add back if needed
   # Atrial fibrillation: Currently in sinus rhythm. Dig level 1.2, within
   range.
   - holding amiodarone until able to take PO
   - will continue digoxin IV, continue to follow level daily due to
   improving renal function.
   # Diabetes: Complicated by peripheral neuropathy.  CBGs WNL.
   - cont insulin 70/30 at decreased dose of 15u while NPO, adjust dose as
   needed
   - humalog sliding scale
   # Hypertension:  Currently normotensive off of medications.
   - holding lasix, metoprolol in setting of possible infection
   ICU Care
   Nutrition:  NPO except meds
   Glycemic Control:  Insulin SS
   Lines:
   16 Gauge - [**2112-5-30**] 04:21 PM
   20 Gauge - [**2112-5-31**] 04:00 PM
   Prophylaxis:
   DVT:  SCD
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/DNI
   Disposition:

2112-06-01 11:15:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remained disoriented and aggitated last PM, despite Haldol.  Eventually
   received zyprexa with good effect.
   Less aggitated this AM.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Lyrica (Oral) (Pregabalin)
   Anaphylaxis;
   Ace Inhibitors
   Unknown;
   Metformin
   Unknown;
   Dofetilide
   Unknown;
   Quinidine
   Unknown;
   Fentanyl
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2112-5-31**] 08:30 AM
   Azithromycin - [**2112-5-31**] 01:30 PM
   Vancomycin - [**2112-6-1**] 07:37 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-6-1**] 10:16 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2112-6-1**] 04:08 AM
   Famotidine (Pepcid) - [**2112-6-1**] 07:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence, Confusion, intermittent
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2112-6-1**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 71 (70 - 74) bpm
   BP: 127/63(79) {102/44(60) - 133/103(118)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: A Paced
             Total In:
                                                                  2,920 mL
                                                                    570 mL
   PO:
                                                                    930 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,990 mL
                                                                    510 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    962 mL
   Urine:
                                                                    770 mL
                                                                    962 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,150 mL
                                                                   -393 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.33/53/91.[**Numeric Identifier 253**]/25/0
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.9 g/dL
   168 K/uL
   129 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   35 mg/dL
   103 mEq/L
   143 mEq/L
   37.0 %
   16.8 K/uL
        [image002.jpg]
                             [**2112-5-31**]  05:11 AM
                             [**2112-6-1**]  04:41 AM
                             [**2112-6-1**]  06:27 AM
   WBC
   12.6
   16.8
   Hct
   39.9
   37.0
   Plt
   150
   168
   Cr
   1.7
   1.5
   TCO2
   29
   Glucose
   153
   129
   Other labs: PT / PTT / INR:43.2/48.0/4.6, ALT / AST:17/26, Alk Phos / T
   Bili:79/1.1, Lactic Acid:2.3 mmol/L, LDH:240 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   ALTERED MENTAL STATUS -- Continued improvement during course of present
   hospitalization suggests drug-induced or toxic-metabolic process.
   Meningitis or encephalitis much less likely.  Avoid psychotropic
   drugs.  Head CT in context of elevated INR.  [**Month (only) 8**] have underlying OSA or
   sleep disturbance in context of chronic heart failure.  ABG
   reassuring.  Improved control with Zyprexa.
   PNEUMONIA -- RLL.  [**Month (only) 8**] represent persistent infection (poorly
   responsive to current antimicrobials) or evolution of resistant
   organism.  Adjust antimicrobials, now on Vanco, Meropenem and add
   Azithro.  Monitor exam and radiographs.
   SEPSIS -- may represent partial treatment of pneumonia, or new
   infection (such as C. diff, hepatobiliary infection, skin-infection).
   Plan check cultures.  Continue supportive care, empirical
   antimicrobials.
   LACTIC ACIDOSIS -- reflects hypoperfusion.  Resussitate with fluids,
   monitor lactic acid.  Maintain BP MAP > 60 mmHg.  Slow clearance may be
   related to cardiac dysfuntion.
   COAGULOPATHY --  attributed to coumadin, and elevation likely poor
   nutrition and antimicrobial effect.  Monitor to therapeutic level, then
   resume Coumadin.  Reverse (FFP and Vit K) if bleeding develops.
   CHF
 severly depressed EF, but no evidence for active heart failure.
   Monitor I/O, exam.
   ACUTE RENAL FAILURE -- acute on chronic.  Likely prerenal due to
   hypovolemia and sepsis.  Replete iv fluids.  Monitor BUN, creatinine.
   CAD -- No evidence for active disease.  Monitor.
   HYPOPHOSPHATEMIA -- replete.
   POTASSIUM -- replete to >4.0 while on Digoxin.
   NIDDM -- maintain glucose <150.
   FLUIDS -- hypovolemia.  Replete with fluids, monitor I/O.
   A-FIB -- adequate rate control.  Continue Amioderone, Digoxin,
   Toprolol.  Monitor HR.
   VEA -- pacer in place.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2112-5-30**] 04:21 PM
   20 Gauge - [**2112-5-31**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill